US08022072B2
The obtained 1-pentyl-3,1-benzoxazin-2,4-(1H)-dione (0.301 g, 1.29 mmol) was dissolved in toluene (4 ml), N,N-dimethylhydrazine (0.10 ml, 1.32 mmol) was added, and the mixture was stirred at 100° C. for 2 hr. The reaction mixture was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate) to give N′,N′-dimethyl-2-pentylaminobenzohydrazide (0.218 g, 0.87 mmol, yield 67%). This was dissolved in methanol (3 ml), 36% formalin (0.35 ml, 4.31 mmol), sodium cyanoborohydride (0.174 g, 2.62 mmol) and acetic acid (0.1 ml) were added, and the mixture was stirred at room temperature for 20 hr. The reaction mixture was concentrated under reduced pressure, and ethyl acetate was added. The mixture was washed with water, and the organic layer was dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate) to give an acylhydrazine compound N′,N′-dimethyl-2-(N-methyl-N-pentylamino)benzohydrazide (0.103 g, 0.39 mmol, yield 45%).

reactant | 1-pentyl-3,1-benzoxazin-2,4-(1H)-dione | 1.29 mmol, 0.301 g | C(CCCC)N1C(OC(C2=C1C=CC=C2)=O)=O | C13H15NO3
reactant | N,N-dimethylhydrazine | 1.32 mmol, 0.10 ml | CN(N)C | C2H8N2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | N′,N′-dimethyl-2-pentylaminobenzohydrazide | 0.87 mmol, 0.218 g, yield 67% | CN(NC(C1=C(C=CC=C1)NCCCCC)=O)C | C14H23N3O
